* CMOS Logic Gates

* Inverter
.subckt INV in out vdd gnd
MN out in gnd gnd NMOS L=180n W=1u
MP out in vdd vdd PMOS L=180n W=2u
.ends INV

* 2-input AND
.subckt AND2 a b out vdd gnd
X1 a n1 vdd gnd INV
X2 b n2 vdd gnd INV
MN1 out n1 gnd gnd NMOS L=180n W=1u
MN2 out n2 gnd gnd NMOS L=180n W=1u
MP1 out n1 vdd vdd PMOS L=180n W=2u
MP2 out n2 vdd vdd PMOS L=180n W=2u
.ends AND2

* 2-input OR
.subckt OR2 a b out vdd gnd
MN1 out a gnd gnd NMOS L=180n W=1u
MN2 out b gnd gnd NMOS L=180n W=1u
MP1 out a vdd vdd PMOS L=180n W=2u
MP2 out b vdd vdd PMOS L=180n W=2u
.ends OR2

* 2-input XOR
.subckt XOR2 a b out vdd gnd
X1 a b n1 vdd gnd AND2
X2 a b n2 vdd gnd OR2
MN out n1 gnd gnd NMOS L=180n W=1u
MP out n2 vdd vdd PMOS L=180n W=2u
.ends XOR2
